US04146631
Acetic acid (100 ml) was saturated with hydrogen bromide at 10° C. and the mixture was treated with 5-benzyloxycarbonylamino-2-hydroxy-N-(tetrazol-5-yl)benzamide (1.77 g). The mixture was stirred at 25° C. for 20 hours, and then most of the hydrogen bromide was removed by passing a stream of air through the mixture for 6 hours. Any finely divided suspended solid was then removed by centrifuging and the supernatant liquid was decanted off. Removal of the acetic acid in vacuo gave a solid, which was triturated with diethyl ether and dried to give 5-amino-2-hydroxy-N-(tetrazol-5-yl)benzamide hydrobromide (1.0 g), m.p. above 330° C.

reactant | hydrogen bromide | Br | BrH
reactant | 5-benzyloxycarbonylamino-2-hydroxy-N-(tetrazol-5-yl)benzamide | 1.77 g | C(C1=CC=CC=C1)OC(=O)NC=1C=CC(=C(C(=O)NC2=NN=NN2)C1)O | C16H14N6O4
solvent | Acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-amino-2-hydroxy-N-(tetrazol-5-yl)benzamide hydrobromide | 1.0 g | Br.NC=1C=CC(=C(C(=O)NC2=NN=NN2)C1)O | InChI=1S/C8H8N6O2.BrH/c9-4-1-2-6(15)5(3-4)7(16)10-8-11-13-14-12-8;/h1-3,15H,9H2,(H2,10,11,12,13,14,16);1H
